US03956374
Step B: 1-(p-Chlorophenyl)-4-phenyl-7-(m-methylphenyl)-1,6-heptadien-3-one
A 20% sodium hydroxide solution (5 ml.) is added to a stirred solution of p-chlorobenzaldehyde(14 g., 0.1 mole) and 3-phenyl-6-(m-methylphenyl)-5-hexen-2-one (25.24 g., 0.096 mole) in ethanol (250 ml.). The yellowish solid that separates on continued stirring is collected, washed with cold ethanol, and air-dried, yield 34.9 g., m.p. 89°-93°C. Recrystallization from ethanaol produces material with m.p. 95°-98°C.

reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | p-chlorobenzaldehyde | 0.1 mole, 14 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 3-phenyl-6-(m-methylphenyl)-5-hexen-2-one | 0.096 mole, 25.24 g | C1(=CC=CC=C1)C(C(C)=O)CC=CC1=CC(=CC=C1)C | C19H20O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-(p-Chlorophenyl)-4-phenyl-7-(m-methylphenyl)-1,6-heptadien-3-one | ClC1=CC=C(C=C1)C=CC(C(CC=CC1=CC(=CC=C1)C)C1=CC=CC=C1)=O | C26H23ClO
